US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-indol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
1-(4-Methoxybutyl)-1H-indole-2-carboxylic acid (210 mg), tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (270 mg) and N,N-diisopropylethylamine (560 μl) were dissolved in 1,2-dichloroethane (10 ml), chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate (360 mg) was added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated, and the residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (0:10-10:0) was concentrated under reduced pressure to give the object product (83 mg).

reactant | 1-(4-Methoxybutyl)-1H-indole-2-carboxylic acid | 210 mg | COCCCCN1C(=CC2=CC=CC=C12)C(=O)O | C14H17NO3
reactant | tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 270 mg | CC(CN[C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)C | C19H35N3O4
reactant | N,N-diisopropylethylamine | 560 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate | 360 mg | F[P-](F)(F)(F)(F)F.ClC(=[N+](C)C)N(C)C
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-indol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 83 mg | COCCCCN1C(=CC2=CC=CC=C12)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C33H50N4O6
